US05716756
4.25 g (10 mmol) of 2,4-bis-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethylethyl)-toluene were dissolved in 50 ml of methylene chloride, and 2.5 g (25 mmol) of triethylamine were added. 2.86 g (25 mmol) of methanesulfonyl chloride were added dropwise at 5° to 10° C. The mixture was stirred for 16 hours at room temperature, separated off from the precipitated salt, washed with water, dried and evaporated down. The residue was chromatographed over a silica gel column with methylene chloride/n-hexane (1:1). After the eluate had been evaporated down, 2.9 g of 2,4- bis-(2,2,2-trifluoro-1-methanesulfonyloxy-1-trifluoromethylethyl)-toluene were obtained (colorless crystals, m.p.: 107° C.).

reactant | 2,4-bis-(2,2,2-trifluoro-1-hydroxy-1-trifluoromethylethyl)-toluene | 10 mmol, 4.25 g | FC(C(C(F)(F)F)(O)C1=C(C=CC(=C1)C(C(F)(F)F)(O)C(F)(F)F)C)(F)F | C13H8F12O2
reactant | triethylamine | 25 mmol, 2.5 g | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 25 mmol, 2.86 g | CS(=O)(=O)Cl | CH3ClO2S
solvent | methylene chloride | 50 ml | C(Cl)Cl | CH2Cl2
product | 2,4- bis-(2,2,2-trifluoro-1-methanesulfonyloxy-1-trifluoromethylethyl)-toluene | 2.9 g | FC(C(C(F)(F)F)(OS(=O)(=O)C)C1=C(C=CC(=C1)C(C(F)(F)F)(OS(=O)(=O)C)C(F)(F)F)C)(F)F | C15H12F12O6S2
